US07947851B2
Step a) Formation of methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl](propyl)-amino}benzoate
The title compound was prepared following the procedure described in Example 44 step a) using methyl 5-amino-2-fluorobenzoate (500 mg, 2.96 mmol), 4-(phenylethynyl)benzaldehyde (610 mg, 2.96 mmol) and propanal (Aldrich, 540 μL, 7.39 mmol). The title compound was obtained as a sticky colorless oil (628 mg, 53%). HPLC, Rt: 5.4 min (purity: 99.1%). LC/MS, M+(ESI): 402.2. 1H NMR (CDCl3) δ: 7.51-7.44 (m, 4H), 7.32 (m, 3H), 7.17 (m, 3H), 6.92 (dd, J=9.8, 9.6 Hz, 1H), 6.74 (m, 1H), 4.50 (s, 2H), 3.88 (s, 3H), 3.33 (t, J=7.3 Hz, 2H), 1.65 (m, 2H), 0.92 (t, J=7.5 Hz, 3H).

reactant | methyl 5-amino-2-fluorobenzoate | 2.96 mmol, 500 mg | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
reactant | 4-(phenylethynyl)benzaldehyde | 2.96 mmol, 610 mg | C1(=CC=CC=C1)C#CC1=CC=C(C=O)C=C1 | C15H10O
reactant | propanal | 7.39 mmol, 540 μL | C(CC)=O | C3H6O
product | methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl](propyl)-amino}benzoate | FC1=C(C(=O)OC)C=C(C=C1)N(CCC)CC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C26H24FNO2
